US08685969B2
8. 4-(2-Fluorophenyl)-7-methyl-6-(pyrimidin-5-yloxy)-9H-pyrido[3,4-b]indole-1-carboxylic acid
A solution of ethyl 4-(2-fluorophenyl)-7-methyl-6-(pyrimidin-5-yloxy)-9H-pyrido[3,4-b]indole-1-carboxylate (0.08 g, 0.181 mmol) and 1N aqueous NaOH (0.814 mL, 0.814 mmol) in methanol (3.01 mL) was refluxed. After 1 hr, the reaction was cooled to room temperature and concentrated in vacuo. Water was added, and the solution was acidified to pH ˜4 by litmus paper. The precipitate was filtered, washed with water, and dried over Drierite to give the desired product (0.0456 g, 0.110 mmol, 60.9% yield) as a yellow solid.

reactant | ethyl 4-(2-fluorophenyl)-7-methyl-6-(pyrimidin-5-yloxy)-9H-pyrido[3,4-b]indole-1-carboxylate | 0.181 mmol, 0.08 g | FC1=C(C=CC=C1)C1=CN=C(C=2NC3=CC(=C(C=C3C21)OC=2C=NC=NC2)C)C(=O)OCC | C25H19FN4O3
reactant | NaOH | 0.814 mmol, 1N, 0.814 mL | [OH-].[Na+]
solvent | methanol | 3.01 mL | CO | CH4O
product | 4-(2-Fluorophenyl)-7-methyl-6-(pyrimidin-5-yloxy)-9H-pyrido[3,4-b]indole-1-carboxylic acid | 0.110 mmol, 0.0456 g, 60.9% yield | FC1=C(C=CC=C1)C1=CN=C(C=2NC3=CC(=C(C=C3C21)OC=2C=NC=NC2)C)C(=O)O | C23H15FN4O3
